US08304419B2
Step B: bis(1,1-dimethylethyl) [2-fluoro-4-nitro-3-(phenyloxy)phenyl]propanedioate
Sodium hydride (60% oil dispersion) (3.75 g, 94 mmol) was added in portions to a solution of di-t-butyl malonate (10.49 ml, 46.9 mmol) in THF (200 mL). After gas evolution subsided, a solution of 1,2-difluoro-4-nitro-3-(phenyloxy)benzene (10.70 g, 42.6 mmol) in THF (100 mL) was added. The mixture was stirred at room temperature for 2 hrs. The reaction mixture was poured into ice and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and the solvent was evaporated. Chromatography of the residue (ethyl acetate:hexanes) gave the desires product (2.38 g, 12.5%) as a yellow oil. 1H NMR (400 MHz, chloroform-d) δ ppm 7.81 (dd, 1H), 7.53 (dd, 1H), 7.27-7.35 (m, 2H), 7.09 (t, 1H), 6.93 (d, 2H), 4.80 (s, 1H), 1.48 (s, 18H). ES MS: m/z 470 (M+23).

reactant | Sodium hydride | 94 mmol, 3.75 g | [H-].[Na+]
reactant | di-t-butyl malonate | 46.9 mmol, 10.49 ml | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | 1,2-difluoro-4-nitro-3-(phenyloxy)benzene | 42.6 mmol, 10.70 g | FC1=C(C(=C(C=C1)[N+](=O)[O-])OC1=CC=CC=C1)F | C12H7F2NO3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | bis(1,1-dimethylethyl) [2-fluoro-4-nitro-3-(phenyloxy)phenyl]propanedioate | 2.38 g, 12.5% | FC1=C(C=CC(=C1OC1=CC=CC=C1)[N+](=O)[O-])C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C23H26FNO7
